US08357693B2
To tert-butyl 5-(2-(3-(piperidine-4-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (mg, mmol) was added a solution of 1:1 TFA:CH2Cl2 (4 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and left under high vacuum for several hours. The crude product was triturated with ethyl ether to afford N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)piperidine-4-carboxamide. (97 mg, 0.21 mmol, 75% over two steps)

reactant | tert-butyl 5-(2-(3-(piperidine-4-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | N1CCC(CC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H33N7O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)piperidine-4-carboxamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)C1CCNCC1 | C27H25N7O
